US09315521B2
In a 250 mL round bottom flask, 3-chloro-2H-indazole (1.95 g, 10 mmol), 30% HCHO (2 mL, 20 mmol) were mixed in water (10 mL). The reaction mixture was refluxed for 2 hours. After cooling down to room temperature, the solid was filtered, washed with water, and dried under vacuum to provide (3-chloro-2H-indazol-2-yl)methanol (1.82 g, 99% yield).

reactant | 3-chloro-2H-indazole | 10 mmol, 1.95 g | ClC=1NN=C2C=CC=CC12 | C7H5ClN2
reactant | HCHO | 20 mmol, 2 mL | C=O | CH2O
solvent | water | 10 mL | O | H2O
product | (3-chloro-2H-indazol-2-yl)methanol | 1.82 g, 99% yield | ClC=1N(N=C2C=CC=CC12)CO | C8H7ClN2O
